US04927614
Bis-(2-n-butoxyethyl) Diphosphoric Acid
To a reaction flask containing 500 ml of methylene chloride under a nitrogen atmosphere is added with stirring phosphorus pentoxide (270 g, 1.9 moles). 2-Butoxyethanol (425 g, 3.6 moles) is added from a dropping funnel over about 2 hr, during which a gentle reflux occurs. At the end of the addition, only a small amount of unreacted P2O5 remains. The contents of the flask are a clear yellow solution. At the end of 24 h additional reaction, the contents of the flask are darker in color and no P2O5 is observed.

reactant | phosphorus pentoxide | 1.9 moles, 270 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | 2-Butoxyethanol | 3.6 moles, 425 g | C(CCC)OCCO | C6H14O2
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | Bis-(2-n-butoxyethyl) Diphosphoric Acid | C(CCC)OCCOP(=O)(OCCOCCCC)OP(=O)(O)O | C12H28O9P2
